US04670438
2-(2-Methoxy-4-methanesulfonylamino-phenyl)-6-hydroxy-imidazo[4,5-b]pyridine
0.5 g of 2,3-diamino-5-acetoxy-pyridine and 0.83 g of 2-methoxy-4-methanesulfonylamino-benzoic acid were refluxed for one hour in 20 ml of phosphorus oxychloride. The reaction mixture was combined with ice water and then adjusted to pH 7 with concentrated aqueous ammonia. The product was then extracted with ethyl acetate and purified by column chromatography (silica gel, eluant: methylene chloride/ethanol 1:0.02 to 1:0.1).

reactant | 2,3-diamino-5-acetoxy-pyridine | 0.5 g | NC1=NC=C(C=C1N)OC(C)=O | C7H9N3O2
reactant | 2-methoxy-4-methanesulfonylamino-benzoic acid | 0.83 g | COC1=C(C(=O)O)C=CC(=C1)NS(=O)(=O)C | C9H11NO5S
reactant | ammonia | N | H3N
solvent | phosphorus oxychloride | 20 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2-(2-Methoxy-4-methanesulfonylamino-phenyl)-6-hydroxy-imidazo[4,5-b]pyridine | COC1=C(C=CC(=C1)NS(=O)(=O)C)C=1NC=2C(=NC=C(C2)O)N1 | C14H14N4O4S
